US07855297B2
By the reaction and treatment in the same manner as in Example 83 using 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.02 g) and 1-bromo-3-(2-oxanyloxy)propane (0.45 mL) as starting materials, 5-benzyloxy-N-(4-isopropylphenyl)-N-({1-[3-(2-oxanyloxy)propyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.65 g) was obtained. This compound was dissolved in methanol (30 mL), and 4 mol/L-HCl/dioxane (0.1 mL) was added. The mixture was stirred at room temperature for 2 hr. Into the reaction mixture was poured saturated aqueous sodium hydrogencarbonate (2 mL). The reaction mixture was concentrated under reduced pressure and partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated. By the reaction and treatment of the obtained residue (0.94 g) in the same manner as in Example 105, 5-hydroxy-N-{[1-(3-hydroxypropyl)pyrazol-4-yl]methyl}-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.58 g) was obtained.

reactant | 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.02 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C1=CC=C(C=C1)C(C)C | C31H33N3O2
reactant | 1-bromo-3-(2-oxanyloxy)propane | 0.45 mL | BrCCCOC1OCCCC1 | C8H15BrO2
product | 5-benzyloxy-N-(4-isopropylphenyl)-N-({1-[3-(2-oxanyloxy)propyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.65 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CCCOC1OCCCC1)C1=CC=C(C=C1)C(C)C | C39H47N3O4
